US07112638B2
Synthesis of 2,3,5-trimethyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one
A solution of 10 g of P2O5 (0.07 mol) in 100 mL of methanesulfonic acid (1.54 mol) was heated at 80° C. under stirring. A mixture of 2,3-dimethylthiophene (0.27 mol, 30 g) and methacrylic acid (0.35 mol) in 20 mL of CH2Cl2 was added and the resulting reaction mixture was stirred at the same temperature for 1.5 h. Then it was poured into a mixture of ice and water and stirred vigorously. The water layer was extracted with CH2Cl2 (3×50 mL), the organic layers were collected, washed with a 10% aqueous solution of sodium carbonate until neutral pH and finally with water. Then the organic phase was isolated, dried over MgSO4, evaporated off to dryness and distilled in vacuo, b.p. 110° C./1 torr. Yield 10 g (20%).

reactant | P2O5 | 0.07 mol, 10 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | methanesulfonic acid | 1.54 mol, 100 mL | CS(=O)(=O)O | CH4O3S
reactant | 2,3-dimethylthiophene | 0.27 mol, 30 g | CC=1SC=CC1C | C6H8S
reactant | methacrylic acid | 0.35 mol | C(C(=C)C)(=O)O | C4H6O2
reactant | water | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,3,5-trimethyl-5,6-dihydro-4H-cyclopenta[b]thiophene-4-one | CC1=C(C2=C(S1)CC(C2=O)C)C | C10H12OS
